US09102621B2
5-Chloro-6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-ol
Hydrogen peroxide solution (30% aq. solution, 30.2 mL, 0.26 mol) was added to a solution of 3-chloro-2-(2,2,3,3-tetrafluoropropoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (Preparation 49, 81.0 g, 0.22 mol) in methanol (500 mL) at 0° C. and the reaction was allowed to warm up to room temperature for 4 hours. The reaction mixture was quenched with aqueous sodium thiosulphate (10%, 100 mL) and the methanol removed in vacuo. The resulting mixture was extracted with EtOAc (2×250 mL). The combined organics swere dried over magnesium sulfate, filtered and evaporated to yield a yellow oil, which was purified by silica gel chromatogrpahy eluting with 10% EtOAc in heptane to afford the title compound as a viscous colourless oil (46.7 g, 82%).

reactant | Hydrogen peroxide | 0.26 mol, 30.2 mL | OO | H2O2
reactant | 3-chloro-2-(2,2,3,3-tetrafluoropropoxy)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.22 mol, 81.0 g | ClC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OCC(C(F)F)(F)F | C14H17BClF4NO3
solvent | methanol | 500 mL | CO | CH4O
product | 5-Chloro-6-(2,2,3,3-tetrafluoropropoxy)pyridin-3-ol | 46.7 g, 82% | ClC=1C=C(C=NC1OCC(C(F)F)(F)F)O | C8H6ClF4NO2
